US06090820
(S)-N-[[3-[4-[cis-3-(Carbobenzyloxy)-3,7-diazabicyclo[3.3.0]octan-7-yl]-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide (150 mg, 0.30 mmol), methylene chloride (5 mL), and methanol (10 mL) are combined with 10% palladium on carbon (30 mg) and placed under a hydrogen atmosphere (balloon) for 15 hours. The reaction is filtered through celite and concentrated in vacuo to give crude (S)-N-[[3-[4-[cis- 3,7-diazabicyclo[3.3.0]octan-7-yl]-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide. To the crude (S)-N-[[3-[4-[cis-3,7-diazabicyclo[3.3.0]octan-7-yl]-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide (115 mg, 0.30 mmol) dissolved in pyridine (5 mL) at 0° C. is added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (70 mg, 0.35 mmol), 4-dimethylaminopyridine (5 mg, 0.05 mmol), and isoxazole-5-carboxylic acid (40 mg, 0.35 mmol). The reaction is warmed to ambient temperature, stirred 15 hours, diluted with methylene chloride (30 mL). The organic phase is washed with 1N HCl (20 mL) and saline (20 mL), dried over sodium sulfate, concentrated in vacuo, and chromatographed on silica gel (230-400 mesh, 100 mL), eluting with chloroform/methanol (97/3). The appropriate fractions are combined (Rf =0.16, TLC, chloroform/methanol, 95/5) and concentrated in vacuo to give the title compound, mp 172-175° C.

reactant | (S)-N-[[3-[4-[cis-3-(Carbobenzyloxy)-3,7-diazabicyclo[3.3.0]octan-7-yl]-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 0.30 mmol, 150 mg | C(=O)(OCC1=CC=CC=C1)N1C[C@@H]2CN(C[C@@H]2C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C26H29FN4O5
reactant | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | palladium on carbon | 30 mg | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | (S)-N-[[3-[4-[cis- 3,7-diazabicyclo[3.3.0]octan-7-yl]-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | [C@@H]12CNC[C@H]2CN(C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C18H23FN4O3
